US06242449B1
Ethyl 4-[3-(4-amino-3-hydroxybenzoyl)indol-1-yl]butanoate (5.0 g) was suspended in a mixed solvent containing methanol (50 ml) and water (5 ml), and 4-ethylbenzaldehyde (3.66 g) and sodium cyanoborohydride (1.80 g) were added to the suspension. Acetic acid (2.5 ml) was further added dropwise to the mixture over five minutes, and the resultant mixture was stirred at room temperature for one hour. Water (50 ml) was added to the reaction mixture, and crystals so precipitated were collected by filtration. The produced crystals were recrystallized from ethanol, to thereby obtain 5.39 g of ethyl 4-{3-[4-(4-ethylphenyl)methylamino-3-hydroxybenzoyl)indol-1-yl}butanoate as yellow crystals.

reactant | Ethyl 4-[3-(4-amino-3-hydroxybenzoyl)indol-1-yl]butanoate | 5.0 g | NC1=C(C=C(C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)OCC)C=C1)O | C21H22N2O4
reactant | methanol | 50 ml | CO | CH4O
reactant | 4-ethylbenzaldehyde | 3.66 g | C(C)C1=CC=C(C=O)C=C1 | C9H10O
reactant | sodium cyanoborohydride | 1.80 g | C(#N)[BH3-].[Na+]
solvent | Water | 50 ml | O | H2O
solvent | Acetic acid | 2.5 ml | C(C)(=O)O | C2H4O2
solvent | water | 5 ml | O | H2O
product | ethyl 4-{3-[4-(4-ethylphenyl)methylamino-3-hydroxybenzoyl)indol-1-yl}butanoate | 5.39 g | C(C)C1=CC=C(C=C1)CNC1=C(C=C(C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)OCC)C=C1)O | C30H32N2O4
